US05696112
N-[5-[(5,6,7,8-Tetrahydro-4H-thieno[3,2-b]azepin-4-yl)carbonyl]-2-pyridinyl]-2-methylbenzeneacetamide
To a cooled (0° C.) mixture of 0.306 g of 5,6,7,8-tetrahydro-4H-thieno[3,2-b]azepine and 1.11 μl of triethylamine in 5 ml of dichloromethane is added 1.2 g of 6-[(2-methylphenylacetyl)amino]pyridine-3-carbonyl chloride. The mixture is stirred at room temperature for 16 hours and diluted with 50 ml of dichloromethane. The mixture is washed with H2O, 1N NaHCO3, H2O, brine and dried (Na2SO4). The solution is concentrated to dryness under vacuum and the residue chromatographed on silica gel to give the product as a solid.

reactant | 5,6,7,8-tetrahydro-4H-thieno[3,2-b]azepine | 0.306 g | S1C=CC=2NCCCCC21 | C8H11NS
reactant | triethylamine | 1.11 μl | C(C)N(CC)CC | C6H15N
reactant | 6-[(2-methylphenylacetyl)amino]pyridine-3-carbonyl chloride | 1.2 g | CC1=C(C=CC=C1)CC(=O)NC1=CC=C(C=N1)C(=O)Cl | C15H13ClN2O2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | N-[5-[(5,6,7,8-Tetrahydro-4H-thieno[3,2-b]azepin-4-yl)carbonyl]-2-pyridinyl]-2-methylbenzeneacetamide | S1C=CC=2N(CCCCC21)C(=O)C=2C=CC(=NC2)NC(CC2=C(C=CC=C2)C)=O | C23H23N3O2S
